US07648983B2
Tert-Butyl (4S,6R)-4-(3-bromophenyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate
To a solution of (S)-4-amino-4-(3-bromo-phenyl)-pentan-2-ol (410 mg, 794 μmoles) as a single diastereomer in THF (10 mL) is added bis(trimethylsilyl)trifluoroacetamide (204 mg, 0.79 mmoles). After 1 h, benzoyl isothiocyanate (259 mg, 1.7 mmoles) is added dropwise. The reaction is stirred for 1 h. The reaction mixture is concentrated under reduced pressure. To the resulting residue is added 5 N hydrogen chloride (25 mL, 125 mmoles) and the reaction is heated to 100° C. After 48 h, the solvent is removed under reduced pressure and the residue is partitioned between THF (20 mL) and saturated sodium bicarbonate (10 mL). To the mixture is added di-tert-butyl dicarbonate (347 mg, 1.6 mmoles) and the reaction is stirred for 48 h. The reaction is diluted with water and extracted with dichloromethane. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The product is purified by silica gel eluting with a linear gradient of hexane to hexane:ethyl acetate (5:2) over 20 minutes to give the title compound (52% Yield, 70% purity as determined by LCMS): MS (m/z): 399, 401 (M+1).

reactant | (S)-4-amino-4-(3-bromo-phenyl)-pentan-2-ol | 794 μmoles, 410 mg | NC(C[C@H](C)O)(C)C1=CC(=CC=C1)Br | C11H16BrNO
reactant | bis(trimethylsilyl)trifluoroacetamide | 0.79 mmoles, 204 mg | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | benzoyl isothiocyanate | 1.7 mmoles, 259 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | hydrogen chloride | 125 mmoles, 5 N, 25 mL | Cl | ClH
reactant | di-tert-butyl dicarbonate | 1.6 mmoles, 347 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Tert-Butyl (4S,6R)-4-(3-bromophenyl)-4,6-dimethyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 52% Yield | BrC=1C=C(C=CC1)[C@]1(N=C(S[C@@H](C1)C)NC(OC(C)(C)C)=O)C | C17H23BrN2O2S
